US08609656B2
1-[4-(2-Aminopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea hydrochloride (Table 1, Compound No. 34)
The title compound can be synthesized from 2-aminopurine, 4-fluoronitrobenzene and 4-chloro-3-(trifluoromethyl)phenyl isocyanate by the same methods as in Examples 29 and 30.

reactant | 2-aminopurine | NC1=NC=C2NC=NC2=N1 | C5H5N5
reactant | 4-fluoronitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-chloro-3-(trifluoromethyl)phenyl isocyanate | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
product | 1-[4-(2-Aminopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea hydrochloride | Cl.NC1=NC=C2N=CN(C2=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F | InChI=1S/C19H13ClF3N7O.ClH/c20-14-6-3-11(7-13(14)19(21,22)23)28-18(31)27-10-1-4-12(5-2-10)30-9-26-15-8-25-17(24)29-16(15)30;/h1-9H,(H2,24,25,29)(H2,27,28,31);1H
